* NGSPICE file created from ro.ext - technology: sky130A

.subckt inv VP VN IN OUT
X0 OUT IN VN VN sky130_fd_pr__nfet_01v8 ad=1 pd=5 as=1 ps=5 w=2 l=0.15
X1 OUT IN VP VP sky130_fd_pr__pfet_01v8 ad=2 pd=9 as=2 ps=9 w=4 l=0.15
.ends

.subckt ro RO_OUT VP VN
Xinv_0 VP VN RO_OUT inv_1/IN inv
Xinv_1 VP VN inv_1/IN inv_2/IN inv
Xinv_2 VP VN inv_2/IN inv_3/IN inv
Xinv_3 VP VN inv_3/IN inv_4/IN inv
Xinv_4 VP VN inv_4/IN RO_OUT inv
.ends

